US09370517B2
Step 3: 5,7-Dimethyl-3-phenylpyrazolo[1,5-a]pyrimidin-2-yl trifluoromethanesulfonate
To a mixture of 5,7-dimethyl-3-phenylpyrazolo[1,5-a]pyrimidin-2-ol (1.20 g, 5.02 mmol, 1.0 eq) in 32 mL DCM was added triethylamine (1.05 mL, 7.52 mmol, 1.5 eq). The reaction mixture was cooled to 0° C. and trifluoromethanesulfonic anhydride (0.93 mL, 5.52 mmol, 1.1 eq) was added dropwise. The mixture was stirred for 10 min at 0° C. and then for 1 h at rt. After addition of DCM and water, the organic phase was washed with brine and was filtered through a silicon filter. The crude product was dried and gave 1.96 g of the title compound in 97% purity based on UPLC-MS (area-%) which corresponds to a yield of >95%.

reactant | 5,7-dimethyl-3-phenylpyrazolo[1,5-a]pyrimidin-2-ol | 5.02 mmol, 1.20 g, 1.0 eq | CC1=NC=2N(C(=C1)C)N=C(C2C2=CC=CC=C2)O | C14H13N3O
reactant | triethylamine | 7.52 mmol, 1.05 mL, 1.5 eq | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 5.52 mmol, 0.93 mL, 1.1 eq | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | water | O | H2O
solvent | DCM | 32 mL | C(Cl)Cl | CH2Cl2
product | 5,7-Dimethyl-3-phenylpyrazolo[1,5-a]pyrimidin-2-yl trifluoromethanesulfonate | 1.96 g, yield of >95% | FC(S(=O)(=O)OC1=NN2C(N=C(C=C2C)C)=C1C1=CC=CC=C1)(F)F | C15H12F3N3O3S
